US09290451B2
6-Isobutylsulfanyl-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-(isobutylthio)picolinic acid (CAN 1247607-03-9) and (2S)-2-amino-4-methyl-pentanamide (CAN 687-51-4) as starting materials. MS (EI): m/e=324.2 [M+H]+.

reactant | 6-(isobutylthio)picolinic acid | C(C(C)C)SC1=CC=CC(=N1)C(=O)O | C10H13NO2S
reactant | (2S)-2-amino-4-methyl-pentanamide | N[C@H](C(=O)N)CC(C)C | C6H14N2O
product | 6-Isobutylsulfanyl-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide | C(N)(=O)[C@H](CC(C)C)NC(=O)C1=NC(=CC=C1)SCC(C)C | C16H25N3O2S
